US05958942
i) Synthesis of 4-[4-[2-(trifluoromethanesulfonamido)-ethan-1-yl]phenyl]-4,5-dihydro-3H-1,4,8b-triazaace-naphthylene-3,5-dione
To a solution of 1.18 g (4.4 mmol) of 4-[2-(trifluoromethanesulfonamido)ethan-1-yl]aniline and 0.68 g (5.3 mmol) of N,N-diisopropylethylamine in 20 ml of acetonitrile was added a solution of 1.53 g (4.4 mmol) of 5-ethoxycarbonyl-3-trichloroacetylimidazo[1,2-a]pyridine. The mixture was heated for 38 hours under reflux. After cooling, and the solvent was distilled off. To the residue was added chloroform. The mixture was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to give 130 mg of the desired compound (6.8%, brown solid).

reactant | 4-[2-(trifluoromethanesulfonamido)ethan-1-yl]aniline | 4.4 mmol, 1.18 g | FC(S(=O)(=O)NCCC1=CC=C(N)C=C1)(F)F | C9H11F3N2O2S
reactant | N,N-diisopropylethylamine | 5.3 mmol, 0.68 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-ethoxycarbonyl-3-trichloroacetylimidazo[1,2-a]pyridine | 4.4 mmol, 1.53 g | C(C)OC(=O)C1=CC=CC=2N1C(=CN2)C(C(Cl)(Cl)Cl)=O | C12H9Cl3N2O3
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-[4-[2-(trifluoromethanesulfonamido)-ethan-1-yl]phenyl]-4,5-dihydro-3H-1,4,8b-triazaace-naphthylene-3,5-dione | 130 mg, 6.8% | FC(S(=O)(=O)NCCC1=CC=C(C=C1)N1C(C2=CN=C3C=CC=C(C1=O)N32)=O)(F)F | C18H13F3N4O4S
